US05482962
Using procedures analogous to those of D. W. Robertson, et. al., J. Med. Chem., 35, 310 (1992) and V. Peesapati, and N. Lingaiah, Org. Prep. Proc. Int., 24(1), 27 (1992), the hydroxy group of methyl 3-hydroxybenzoate was alkylated with 3-chloro-2-methyl-1-propene to give methyl 3-(2-methyl-2-propenyloxy)benzoate. This material then underwent a 3,3 sigmatrophic shift to give methyl 3-hydroxy-4-(2-methyl-2-propenyl)benzoate. Formic acid catalyzed ring closure resulted in 2,2-dimethyl-6-carboxymethyl-dihydrobenzofuran.

reactant | methyl 3-hydroxybenzoate | OC=1C=C(C(=O)OC)C=CC1 | C8H8O3
reactant | 3-chloro-2-methyl-1-propene | ClCC(=C)C | C4H7Cl
product | methyl 3-(2-methyl-2-propenyloxy)benzoate | CC(COC=1C=C(C(=O)OC)C=CC1)=C | C12H14O3
